US08466163B2
3-Iodo-6-methoxy-7-(4-methoxy-benzyloxy)-2-(1-methyl-1H-pyrazol-4-yl)-furo[3,2-b]pyridine (ρ):
To a stirred solution of 3,5-dimethoxy-4-(4-methoxy-benzyloxy)-2-(1-methyl-1H-pyrazol-4-ylethynyl)pyridine (80 mg, 0.21 mmol) in dry THF (2 ml) was added bispyridine iodonium tetrafluoroborate (94 mg, 0.25 mmol) and the reaction was refluxed for 0.5 hours. After cooling, the reaction was quenched with 10% Na2S2O3 (aq) and extracted with EtOAc. The organic layer was washed with brine, dried over MgSO4 and concentrated onto silica-gel under reduced pressure. The solid residue was purified by flash chromatography (silica-gel, eluted with EtOAc:hexanes, 3:2) to give the product as a white solid (65 mg, 63%). 1H—NMR (300 MHz, CDCl3) δ 8.23 (s, 1H), 8.16 (s, 1H), 8.15 (s, 1H), 7.38 (d, J=8.6 Hz, 2H), 6.86 (d, J=8.6 Hz, 2H), 5.60 (s, 2H), 3.99 (s, 3H), 3.93 (s, 3H), 3.77 (s, 3H).

reactant | 3,5-dimethoxy-4-(4-methoxy-benzyloxy)-2-(1-methyl-1H-pyrazol-4-ylethynyl)pyridine | 0.21 mmol, 80 mg | COC=1C(=NC=C(C1OCC1=CC=C(C=C1)OC)OC)C#CC=1C=NN(C1)C | C21H21N3O4
reactant | bispyridine iodonium tetrafluoroborate | 0.25 mmol, 94 mg | F[B-](F)(F)F.[IH2+].N1=CC=CC=C1.N1=CC=CC=C1
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-Iodo-6-methoxy-7-(4-methoxy-benzyloxy)-2-(1-methyl-1H-pyrazol-4-yl)-furo[3,2-b]pyridine | 65 mg, 63% | IC1=C(OC=2C1=NC=C(C2OCC2=CC=C(C=C2)OC)OC)C=2C=NN(C2)C | C20H18IN3O4
